US08008298B2
1-[2-(3,5-Dimethoxy-phenyl)-5H-pyrrolo[2,3-b]pyrazin-7-yl]-2,2-dimethyl-propan-1-one was prepared starting from 1-(2-bromo-5H-pyrrolo[2,3-b]pyrazin-7-yl)-2,2-dimethyl-propan-1-one and (3,5-dimethoxyphenyl)boronic acid following general procedures as described in these Examples. Silica gel chromatography using 10-50% EtOAc in hexanes as eluant provided 90 mg (52%) of a yellow solid. MP 206.9-207.7° C., M+H=340.

reactant | 1-(2-bromo-5H-pyrrolo[2,3-b]pyrazin-7-yl)-2,2-dimethyl-propan-1-one | BrC=1N=C2C(=NC1)NC=C2C(C(C)(C)C)=O | C11H12BrN3O
reactant | (3,5-dimethoxyphenyl)boronic acid | COC=1C=C(C=C(C1)OC)B(O)O | C8H11BO4
solvent | EtOAc | CCOC(=O)C | C4H8O2
product | 1-[2-(3,5-Dimethoxy-phenyl)-5H-pyrrolo[2,3-b]pyrazin-7-yl]-2,2-dimethyl-propan-1-one | COC=1C=C(C=C(C1)OC)C=1N=C2C(=NC1)NC=C2C(C(C)(C)C)=O | C19H21N3O3
